US08404672B2
To a solution of tert-butyl 1-(4-(N′-(4-phenyl-5-(trifluoromethyl)thiophene-2-carbonyloxy)carbamimidoyl)benzyl)azetidine-3-carboxylate (744 mg, 1.33 mmol) in acetonitrile (30 mL) was added a 1M solution of TBAF in tetrahydrofuran (3.99 mL, 3.99 mmol), and the reaction mixture was allowed to stir at room temperature for 3 days. The volatiles were removed under reduced pressure, and the residue was chromatographed on a 5×12 cm silica gel column, eluting with a 0-50% EtOAc/Hex gradient. The essentially pure fractions containing product were concentrated to afford tert-butyl 1-(4-(5-(4-phenyl-5-(trifluoromethyl)thiophen-2-yl)-1,2,4-oxadiazol-3-yl)benzyl)azetidine-3-carboxylate (521 mg, 0.962 mmol, 72.4% yield) as a colorless solid. HPLC ret. time=3.63 min. (YMC Combi S-5 4.6×50 mm ODS column) eluting with 10-90% aqueous methanol+0.2% phosphoric acid over a 4 minute gradient. MS: (M+H)=542.22. 1H NMR (500 MHz, CDCL3) δ ppm 1.46 (s, 9H), 3.25-3.31 (m, 3H), 3.52-3.58 (m, 2H), 3.69 (s, 2H), 7.43 (d, J=8.25 Hz, 2H), 7.47 (m, 5H), 7.91 (s, d, J=1.65 Hz, 1H), and 8.09 (d, J=8.25 Hz, 2H).

reactant | tert-butyl 1-(4-(N′-(4-phenyl-5-(trifluoromethyl)thiophene-2-carbonyloxy)carbamimidoyl)benzyl)azetidine-3-carboxylate | 1.33 mmol, 744 mg | C1(=CC=CC=C1)C=1C=C(SC1C(F)(F)F)C(=O)ON=C(N)C1=CC=C(CN2CC(C2)C(=O)OC(C)(C)C)C=C1 | C28H28F3N3O4S
reactant | TBAF | CCCC[N+](CCCC)(CCCC)CCCC.[F-]
reactant | tetrahydrofuran | 3.99 mmol, 3.99 mL | O1CCCC1 | C4H8O
solvent | acetonitrile | 30 mL | C(C)#N | C2H3N
product | tert-butyl 1-(4-(5-(4-phenyl-5-(trifluoromethyl)thiophen-2-yl)-1,2,4-oxadiazol-3-yl)benzyl)azetidine-3-carboxylate | 0.962 mmol, 521 mg, 72.4% yield | C1(=CC=CC=C1)C=1C=C(SC1C(F)(F)F)C1=NC(=NO1)C1=CC=C(CN2CC(C2)C(=O)OC(C)(C)C)C=C1 | C28H26F3N3O3S
